US05866594
Synthesis of methyl 3-carbamoyl-4,7-dimethylindole-2-carboxylate (compound 58)
A solution of 2.0 g (9.9 mmol) of methyl 4,7-dimethylindole-2-carboxylate in 200 ml of anhydrous acetonitrile was cooled to 0° C. A solution of 3 ml (9.9 mmol) of chlorosulfonylisocyanate in 50 ml of anhydrous acetonitrile was added dropwise over a period of 15 minutes and the reaction mixture was stirred at room temperature for 30 minutes. After distilling off acetonitrile under reduced pressure, the residue was dissolved in 15 ml of acetonitrile-water (4:1). The pH of the solution was adjusted to 8 by gradually adding 10% potassium hydroxide aqueous solution dropwise. The white crystals precipitated were separated by filtration and air-dried and then dried under reduced pressure to provide 1.0 g of white crystals.

reactant | methyl 4,7-dimethylindole-2-carboxylate | 9.9 mmol, 2.0 g | CC1=C2C=C(NC2=C(C=C1)C)C(=O)OC | C12H13NO2
reactant | chlorosulfonylisocyanate | 9.9 mmol, 3 ml | ClS(=O)(=O)N=C=O | CClNO3S
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | methyl 3-carbamoyl-4,7-dimethylindole-2-carboxylate | 1.0 g, Yield: 42% | C(N)(=O)C1=C(NC2=C(C=CC(=C12)C)C)C(=O)OC | C13H14N2O3
